* C:\users\omar\My Documents\University\IX_Semester\Disenio\Easyrun\Circuit Design\LTspice Simulations\Rectifier.asc
L1 0 N002 4.4444444 Rser=1
V_red N002 0 SINE(0 155.6 60 0 0 90)
D1 N001 Vo_rect 1N5819
C1 Vo_rect 0 100µ
L2 0 N001 100m
L3 N003 0 100m
D2 N003 Vo_rect 1N5819
R_min_16V Vo_rect 0 28.32951
.model D D
.lib C:\users\omar\My Documents\LTspiceXVII\lib\cmp\standard.dio
K L1 L2 L3 1
.tran 100m uic
.backanno
.end
